US03932390
2-Thia-1,3,5-triaza-7-phosphaadamantane 2,2-dioxide (0.5g, 0.0024 mole) and t-butyl hydroperoxide (70% solution, 0.3 g, 0.0024 mole) were stirred in a 25 ml acetone-25 ethanol solution for 1 hour at room temperature. The solution was filtered to yield 0.5 g of crude 2-thia-1,3,5-triaza-7-phosphaadamantane 2,2,7-trioxide (92% yield) [MP 245°-6° (propanol)].

reactant | 2-Thia-1,3,5-triaza-7-phosphaadamantane 2,2-dioxide | 0.0024 mole, 0.5g | N12S(N3CN(CP(C1)C3)C2)(=O)=O | C5H10N3O2PS
reactant | t-butyl hydroperoxide | 0.0024 mole, 0.3 g | C(C)(C)(C)OO | C4H10O2
product | 2-thia-1,3,5-triaza-7-phosphaadamantane 2,2,7-trioxide | 0.5 g, 92% yield | N12S(N3CN(CP(C1)(C3)=O)C2)(=O)=O | C5H10N3O3PS
